US09082983B1
Preparation of 2,6-diamino 3,5-dinitro pyrazine (Scheme 3, Compound iii).
Ammonium hydroxide (28%, 60 mL) was added drop wise to a slurry of 2,6-dimethoxy 3,5-dinitro pyrazine (10.0 g, 43.5 mmol) in acetonitrile (50 mL). Upon addition, the yellow slurry became red/yellow in color and eventually became a red solution. As the solution was heated at 65° C. for an hour, yellow precipitate (8.0 g, 92.2%) began to form, which was filtered hot and allowed to air dry.

reactant | Ammonium hydroxide | 60 mL | [OH-].[NH4+]
reactant | 2,6-dimethoxy 3,5-dinitro pyrazine | 43.5 mmol, 10.0 g | COC1=NC(=C(N=C1[N+](=O)[O-])[N+](=O)[O-])OC | C6H6N4O6
reactant | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2,6-diamino 3,5-dinitro pyrazine | NC1=NC(=C(N=C1[N+](=O)[O-])[N+](=O)[O-])N | C4H4N6O4
